US06093838
5-Amino-3,3-dimethyl-7-ethyl-2,3-dihydro-benzofuran (Compound 12)
Following general procedure D and using 5-bromo-3,3-dimethyl-7-ethyl-2,3-dihydro-benzofuran (Compound 9, 1.2 g, 4.72 mmol obtained substantially in accordance with J Med. Chem. 1998, 41, 1124-1137), benzophenone imine (0.94 g, 5.2 mmol), sodium-tert-butoxide (0.63 g, 6.6 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.020 g, 0.021 mmol) and (S)-(-)-2,2'-bis(diphenylphosphino)-1,1'-binaphthyl (0.040 g, 0.064 mmol) in 10 mL of anhydrous toluene, followed by hydrolysis of the intermediary imine with 2M hydrochloric acid in tetrahydrofuran, the title compound was obtained as an oil (0.7 g, 78%). 1H NMR (300 MHz, CDCl3): δ 6.37 (d, 1H, J=2.3 Hz), 6.35 (d, 1H, J=2.3 Hz), 4.17 (s, 2H), 3.15 (br s, 2H), 2.54 (q, 2H, J=7.6 Hz), 1.30 (s, 6H), 1.20 (t, 3H, J=7.6 Hz).

reactant | 5-bromo-3,3-dimethyl-7-ethyl-2,3-dihydro-benzofuran | BrC=1C=C(C2=C(C(CO2)(C)C)C1)CC | C12H15BrO
reactant | benzophenone imine | 5.2 mmol, 0.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium-tert-butoxide | 6.6 mmol, 0.63 g | CC(C)([O-])C.[Na+]
reactant | (S)-(-)-2,2'-bis(diphenylphosphino)-1,1'-binaphthyl | 0.064 mmol, 0.040 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.021 mmol, 0.020 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Amino-3,3-dimethyl-7-ethyl-2,3-dihydro-benzofuran | NC=1C=C(C2=C(C(CO2)(C)C)C1)CC | C12H17NO
